US07842685B2
To a solution of 9-bromo-9-bora-bicyclo[3.3.1]nonane 1 M in DCM (33 mL, 33 mmol) at 0° C. was added ethynylcyclohexane (3.6 mL, 28 mmol) under argon via syringe slowly dropwise in portions over 10 min. The reaction mixture was allowed to stir 3 h, at which point acetic acid (4.8 mL, 83 mmol) was added dropwise in portions over 20 min. After 1 h additional, sodium hydroxide (17 mL, 166 mmol) was added slowly, followed by cautious addition of hydrogen peroxide (8.5 mL, 83 mmol). The reaction mixture was allowed to stir rapidly 1 h, then was warmed to ambient temperature. The reaction mixture was partitioned between hexanes and water, and the organic layer was washed with saturated aq. Sodium bicarbonate, and brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The resulting liquid was filtered through a 3 cm pad of silica gel, rinsing with 200 mL hexanes, and the filtrate was concentrated in vacuo to give crude (1-bromovinyl)-cyclohexane as a clear/colorless oil which was used without further purification.

reactant | 9-bromo-9-bora-bicyclo[3.3.1]nonane | 1 M | BrB1C2CCCC1CCC2 | C8H14BBr
reactant | DCM | 33 mmol, 33 mL | C(Cl)Cl | CH2Cl2
reactant | ethynylcyclohexane | 28 mmol, 3.6 mL | C(#C)C1CCCCC1 | C8H12
reactant | acetic acid | 83 mmol, 4.8 mL | C(C)(=O)O | C2H4O2
reactant | sodium hydroxide | 166 mmol, 17 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 83 mmol, 8.5 mL | OO | H2O2
product | (1-bromovinyl)-cyclohexane | BrC(=C)C1CCCCC1 | C8H13Br
